US07179934B2
(3S,5R)-3-Amino-7-cyclohexyl-5-methyl-heptanoic acid
A flask was charged with 0.356 g of (3S,5R)-3-amino-7-cyclohexyl-5-methyl-heptanoic acid methyl ester and 20 mL of 3 M HCl, and the mixture was heated at reflux overnight. The mixture was cooled to room temperature and the solvent was removed under reduced pressure. This provided 0.340 g (88%) of a white solid HCl salt: 1H NMR (400 MHz, CD3OD) δ ppm 0.87 (s, 2 H) 0.95 (d, J=6.34 Hz, 3 H) 1.21 (m, 6 H) 1.35 (m, 1 H) 1.43 (ddd, J=13.85, 8.24, 5.98 Hz, 1 H) 1.55 (ddd, J=12.81, 6.34, 6.22 Hz, 1 H) 1.64 (dd, J=8.30, 5.37 Hz, 2 H) 1.71 (m, 5 H) 2.57 (dd, J=17.45, 7.44 Hz, 1H) 2.70 (m, 1 H) 3.59 (m, J=7.72, 7.72, 5.73, 5.43 Hz, 1 H). MS (APCl) m+1/z=242.

reactant | (3S,5R)-3-amino-7-cyclohexyl-5-methyl-heptanoic acid methyl ester | 0.356 g | COC(C[C@H](C[C@@H](CCC1CCCCC1)C)N)=O | C15H29NO2
solvent | HCl | 3 M, 20 mL | Cl | ClH
product | (3S,5R)-3-Amino-7-cyclohexyl-5-methyl-heptanoic acid | N[C@H](CC(=O)O)C[C@@H](CCC1CCCCC1)C | C14H27NO2
